US07745438B2
(R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester
Dissolve (R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester (0.163 g, 0.31 mmol) in tetrahydrofuran (4 mL). Add triethylamine (0.044 g, 0.44 mmol) and acetic anhydride (0.036 g, 0.35 mmol). Stir 90 minutes and dilute with ethyl acetate (50 mL). Wash with 0.1 N aqueous citric acid, water, and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate. Purify on silica gel, eluting with 10:90 to 50:50 ethyl acetate:hexanes to give the title compound.

reactant | (R)-5-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester | 0.31 mmol, 0.163 g | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H34F2N2O4
reactant | triethylamine | 0.44 mmol, 0.044 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.35 mmol, 0.036 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (R)-5-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-2,2-diphenylmorpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H36F2N2O5
